US09446393B2
A round bottom flask was charged with (S)-diisobutyl (5-hydroxypentane-1,2-diyl)dicarbamate (5.0 g, 15.7 mmol), CH2Cl2 (80 mL), and triethylamine (5.3 mL, 38 mmol), and cooled to −78° C. Methanesulfonyl chloride (2.3 mL, 30 mmol) was added dropwise with stirring and the cold bath was allowed to warm to 0° C. over the course of 5 h. Aqueous citric acid (20%, 140 mL) and CH2Cl2 (150 mL) were added and the phases were separated. The organic phase was washed with saturated NaHCO3 solution, and then dried on anhydrous Na2SO4. The solvent was removed by rotary evaporation and dried in oil pump vacuum. The product (S)-4,5-bis((isobutoxycarbonyl)amino)pentyl methanesulfonate was obtained as a yellowish white solid. The crude product was used without further purification in the next procedure.

reactant | (S)-diisobutyl (5-hydroxypentane-1,2-diyl)dicarbamate | 15.7 mmol, 5.0 g | OCCC[C@@H](CNC(OCC(C)C)=O)NC(OCC(C)C)=O | C15H30N2O5
reactant | triethylamine | 38 mmol, 5.3 mL | C(C)N(CC)CC | C6H15N
reactant | Methanesulfonyl chloride | 30 mmol, 2.3 mL | CS(=O)(=O)Cl | CH3ClO2S
reactant | citric acid | 140 mL | C(CC(O)(C(=O)O)CC(=O)O)(=O)O | C6H8O7
solvent | CH2Cl2 | 150 mL | C(Cl)Cl | CH2Cl2
solvent | CH2Cl2 | 80 mL | C(Cl)Cl | CH2Cl2
product | (S)-4,5-bis((isobutoxycarbonyl)amino)pentyl methanesulfonate | CS(=O)(=O)OCCC[C@@H](CNC(=O)OCC(C)C)NC(=O)OCC(C)C | C16H32N2O7S
